US06740670B2
Methyl 2-methoxy-5-formylbenzoate
Methyl iodide (3.6 mL, 0.042 mol, 3.5 eq) was added dropwise to a stirred solution of 5-formylsalicylic acid (2.78 g, 0.017 mol, 1 eq) and cesium carbonate (16.36 g, 0.050 mol, 3 eq) in N,N-dimethylformamide (50 mL). The reaction mixture was stirred overnight, then diluted with ethyl acetate (100 mL) and the organic solution washed with water (100 mL), and brine (4×100 mL). The organic solution was dried over sodium sulfate and evaporated in vacuo to a cream coloured powder (2.8 g, 86%). 1H NMR (CDCl3) δ9.92 (s, 1H, O═C—H), 4.01 (s, 3H, CH3), 3.93 (s, 3H, CH3).

reactant | Methyl iodide | 0.042 mol, 3.6 mL, 3.5 eq | CI | CH3I
reactant | 5-formylsalicylic acid | 0.017 mol, 2.78 g, 1 eq | C(=O)C1=CC=C(C(C(=O)O)=C1)O | C8H6O4
reactant | cesium carbonate | 0.050 mol, 16.36 g, 3 eq | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | Methyl 2-methoxy-5-formylbenzoate | COC1=C(C(=O)OC)C=C(C=C1)C=O | C10H10O4
